US07601844B2
2-((R)-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methyl-1-oxobutan-2-ylamino)thiazole-4-carboxylic acid
To a solution of ethyl 2-((R)-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methyl-1-oxobutan-2-ylamino)thiazole-4-carboxylate (69 mg, 0.140 mmol) in MeOH (0.28 ml)/THF (0.280 ml) was added NaOH, 1N (0.140 ml, 0.140 mmol) and the reaction stirred at room temperature. The reaction was stirred for 8 h and then neutralized with 1 N HCL. The solvents were removed and water (˜1 mL) was added. The resulting solids were stirred and sonicated briefly, filtered and rinsed with water. HPLC purity of crude solids, ˜90%; MS found: 466.26 (M+)+.

reactant | ethyl 2-((R)-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methyl-1-oxobutan-2-ylamino)thiazole-4-carboxylate | 0.140 mmol, 69 mg | ClC1=CC=C(C=C1)[C@@]1(C(CN(CC1)C([C@@H](C(C)C)NC=1SC=C(N1)C(=O)OCC)=O)(C)C)O | C24H32ClN3O4S
reactant | THF | 0.280 ml | C1CCOC1 | C4H8O
reactant | NaOH | [OH-].[Na+]
solvent | MeOH | 0.28 ml | CO | CH4O
product | 2-((R)-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methyl-1-oxobutan-2-ylamino)thiazole-4-carboxylic acid | ClC1=CC=C(C=C1)[C@@]1(C(CN(CC1)C([C@@H](C(C)C)NC=1SC=C(N1)C(=O)O)=O)(C)C)O | C22H28ClN3O4S
